US05998439
Synthesis of 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine
Combine 4-(1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt (9.17 g, 18.9 mmol) and t-butanol (100 mL). Add an aqueous solution of sodium bicarbonate (40 mL, 1 M, 40 mmol). Add di-t-butyldicarbonate (5.2 g, 23.9 mmol). After 72 hours, concentrate in vacuo to give a residue. Combine the residue and ethyl acetate. Extract with aqueous 1 M hydrochloric acid solution, saturated aqueous sodium bicarbonate solution, 0.5 M aqueous sodium thiosulfate solution, and brine. Dry the separated organic layer over Na2SO4, filter, and evaporate in vacuo to give a solid. Triturate the solid with diethyl ether, collect the solid by filtration, and recrystallize from ethyl acetate to give, after collection and drying, the title compound: mp; 226-228° C. Rf =0.30 (silica gel, 20% ethyl acetate/hexane).

reactant | 4-(1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt | 18.9 mmol, 9.17 g | I.N1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2
reactant | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
reactant | sodium bicarbonate | 40 mmol, 1 M, 40 mL | C([O-])(O)=O.[Na+]
reactant | di-t-butyldicarbonate | 23.9 mmol, 5.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
